US06624309B1
A. 4-(1H-Indol-1-yl)benzoic Acid Methyl Ester
Ethyl-4-fluorobenzoate (4 mL, 27.3 mmol) and indole (3.51 g, 30 mmol) were dissolved in 50 mL of dimethylsulfoxide (DMSO). Potassium fluoride (37% on basic alumina, 12.8 g) and 18-crown-6 (720 mg, 2.73 mmol) were added and the mixture was heated to 120° C. for 24 hours. The reaction was diluted with ethyl acetate and washed with hydrochloric acid (1.0 M, aq.), sodium bicarbonate (sat'd., aq.) and sodium chloride (sat'd., aq.). The organic layer was dried over magnesium sulfate, filtered and the solvent removed. Purification by flash chromatography on silica gel eluted with 5% ethyl acetate, hexane provided 1.45 g (20%) of a white solid

reactant | Ethyl-4-fluorobenzoate | 27.3 mmol, 4 mL | C(C)OC(C1=CC=C(C=C1)F)=O | C9H9FO2
reactant | indole | 30 mmol, 3.51 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | Potassium fluoride | 12.8 g | [F-].[K+]
reactant | 18-crown-6 | 2.73 mmol, 720 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1H-Indol-1-yl)benzoic Acid Methyl Ester | 1.45 g, 20% | COC(C1=CC=C(C=C1)N1C=CC2=CC=CC=C12)=O | C16H13NO2
